US05137035
The reaction of 18.73 g (91.7 mmoles) of aluminum isopropoxide in 150 ml of toluene with 3.0 g (15.3 mmoles) of 6-(carbethoxymethyl)-3-methyl-2-cyclohexen-l-one was conducted in a similar manner to the synthesis of 3a,4,5,7a-tetrahydro-2(3H)-benzofuranone described in Example I. The crude material was purified by Kugelrohr distillation (bp 55°-80° C./0.0l mm Hg) to yield 1.7 g (74%) of cis 6-methyl-3a,4,5,7a-tetrahydro-2(3H)-benzofuranone, as confirmed by NMR and IR data.

reactant | aluminum isopropoxide | 91.7 mmoles, 18.73 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 6-(carbethoxymethyl)-3-methyl-2-cyclohexen-l-one | 15.3 mmoles, 3.0 g | C(=O)(OCC)CC1CCC(=CC1=O)C | C11H16O3
reactant | 3a,4,5,7a-tetrahydro-2(3H)-benzofuranone | O1C(CC2C1C=CCC2)=O | C8H10O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | cis 6-methyl-3a,4,5,7a-tetrahydro-2(3H)-benzofuranone | 1.7 g, 74% | CC1=C[C@H]2[C@H](CC(O2)=O)CC1 | C9H12O2
